* 1-level MCML Testbench (Model=01v8)

.lib $::env(SKYWATER_MODELS)/sky130.lib.spice tt

.param VDD = 1.8
.param VCM = 1.7
.param ITAIL = 0.0001
.param RLOAD = 4000.0

Vdd VDD 0 VDD
I0 tail 0 ITAIL

V_in1_p in1_p 0 dc VCM ac 0.5
V_in1_n in1_n 0 dc VCM ac -0.5

M_tail_p n1 in1_p tail 0 sky130_fd_pr__nfet_01v8 w=2.0 l=0.15
M_tail_n n2 in1_n tail 0 sky130_fd_pr__nfet_01v8 w=2.0 l=0.15

* Loads (XOR configuration)
V_meas_n1 n1 out_p 0
V_meas_n2 n2 out_n 0
R_out_p VDD out_p RLOAD
R_out_n VDD out_n RLOAD

.control
op
let vtail = v(tail)
print vtail
ac dec 20 10M 100G
let vout_diff = v(out_n) - v(out_p)
meas ac ugf WHEN vmag(vout_diff)=1.0 FALL=1
print ugf
quit
.endc
.end
